US08440673B2
3-(2-Cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid (0.120 g, 0.36 mmol), C-(5-methyl-pyrazin-2-yl)-methylamine (0.044 g, 0.36 mmol), EDCI (0.103 g, 0.54 mmol), HOBt (0.073 g, 0.54 mmol), and NMM (0.183 g, 1.80 mmol) were added to 7 mL of dichloromethane. The reaction mixture was stirred for 48 hours at room temperature, then concentrated under reduced pressure. The residue was purified via flash chromatography (5:1 EtOAc/hexanes) to give 0.14 g of 3-(2-cyclopropylmethyl-2H-pyrazol-3-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-5-(5-methyl-pyridin-2-yl)-benzamide, MS (M+H)=439.

reactant | 3-(2-Cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid | 0.36 mmol, 0.120 g | C1(CC1)CN1N=CC=C1C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C20H19N3O2
reactant | C-(5-methyl-pyrazin-2-yl)-methylamine | 0.36 mmol, 0.044 g | CC=1N=CC(=NC1)CN | C6H9N3
reactant | EDCI | 0.54 mmol, 0.103 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.54 mmol, 0.073 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 1.80 mmol, 0.183 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 3-(2-cyclopropylmethyl-2H-pyrazol-3-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-5-(5-methyl-pyridin-2-yl)-benzamide | 0.14 g | C1(CC1)CN1N=CC=C1C=1C=C(C(=O)NCC2=NC=C(N=C2)C)C=C(C1)C1=NC=C(C=C1)C | C26H26N6O
